US03994941
In the manner given in Example 2, 8-bromo-1-(2-hydroxyethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dioxane is treated with phthalimide, triphenylphosphine and subsequently with diethyl azodicarboxylate to give 8-bromo-1-(2-phthalimidoethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-bromo-1-(2-hydroxyethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCO)C3=CC=CC=C3)C1 | C18H15BrN4O
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 8-bromo-1-(2-phthalimidoethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | C26H18BrN5O2
